US08242104B2
Ethyl diazoacetate (3.49 g, 61.3 mmol) was added over 20 minutes to a stirred suspension of palladium (II) acetate (61 mmol) and vinylboronic acid pinacol ester (1.9 g, 12.26 mmol) in diethyl ether (30 mL) and stirred for 2 hours. The reaction was concentrated in vacuo and the residues distilled under vacuum (100-140° C. at 0.5-1 mbar) to afford 2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclopropanecarboxylic acid ethyl ester (3.08 g, quant.) as a 4:6 mix of products, cis/trans isomers. 1H NMR 300 MHz (CHCl3-d): δ 4.26-4.25 (0.8H, m), 4.12-4.12 (1.2H, m), 1.83-1.82 (0.4H, m), 1.76-1.75 (0.6H, m), 1.28-1.27 (6H, m), 1.26 (6H, m), 1.22 (3H, m), 1.16-1.05 (0.8H, m), 1.01-1.00 (1.2H, m), 0.58 (0.6H, ddd, J=10.25, 7.44, 5.18 Hz), 0.41-0.41 (0.4H, m)

reactant | Ethyl diazoacetate | 61.3 mmol, 3.49 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | vinylboronic acid pinacol ester | 12.26 mmol, 1.9 g | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
catalyst | palladium (II) acetate | 61 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclopropanecarboxylic acid ethyl ester | 3.08 g | C(C)OC(=O)C1C(C1)B1OC(C(O1)(C)C)(C)C | C12H21BO4
